US08039479B2
4-(5-Isopropoxy-2-methyl-4-nitro-phenyl)-pyridine from the previous step (438 mg, 1.61 mmol) dissolved in acetic acid (30 mL) is treated with TFA (0.24 mL, 3.22 mmol) and PtO2 (176 mg, 40% w/w). The reaction mixture is vigorously stirred under 1 atm. H2 for 36 hours. The reaction mixture is filtered and the filtrate is concentrated under vacuum. The resulting residue is diluted with ethyl acetate and washed with 1 N aqueous NaOH (2×), the organic layer is then dried over Na2SO4 and filtered. After concentration, the crude product (391 mg) is dissolved in anhydrous CH2Cl2 (30 mL). TEA is added (0.44 mL, 3.15, 2 equiv.) followed by Boc2O (344 mg, 1.57 equiv, 1 equiv.). The reaction is stirred at room temperature for 30 min. The reaction is concentrated under vacuum. The resulting residue is purified by silica gel chromatography (gradient from hexanes to 30% ethyl acetate in hexanes) to give 4-(4-amino-5-isopropoxy-2-methyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester as a sticky foam: ESMS m/z 293.1 (M−tBu+H)+.

reactant | 4-(5-Isopropoxy-2-methyl-4-nitro-phenyl)-pyridine | C(C)(C)OC=1C(=CC(=C(C1)C1=CC=NC=C1)C)[N+](=O)[O-] | C15H16N2O3
reactant | TFA | 3.22 mmol, 0.24 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc2O | 344 mg, 1.57 equiv | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 176 mg | O=[Pt]=O
product | 4-(4-amino-5-isopropoxy-2-methyl-phenyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=C(C=C(C(=C1)OC(C)C)N)C | C20H32N2O3
